US04912262
The reaction was carried out under Argon. Cuprous cyanide (6.52 g, 72.8 mmol) and anhydrous sodium iodide (20.25 g, 135 mmol) were stirred for 2 minutes in anhydrous acetonitrile (100 ml). The resulting solution was mixed with o-bromo benzoyl chloride (15.0 g, 68 mmol) whereupon an orange precipitate formed. The mixture was stirred for 30 minutes at room temperature, filtered and concentrated in vacuo. The residue was taken up in dichloromethane and the resulting precipitate was filtered off. Concentration of the filtrate under reduced pressure gave a yellow solid. Recrystallisation from 60°-80° C. b.p.t. petroleum ether afforded o-bromo benzoyl cyanide as yellow crystals (7.14 g, 50%), melting point 64° C.

reactant | sodium iodide | 135 mmol, 20.25 g | [I-].[Na+]
reactant | o-bromo benzoyl chloride | 68 mmol, 15.0 g | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | o-bromo benzoyl cyanide | 7.14 g, 50% | BrC1=C(C(=O)C#N)C=CC=C1 | C8H4BrNO
